US04252984
Following the procedure of Example I, 1-{4-[2-(cyclopropylmethoxy)-ethoxy]-phenoxy}-2,3-epoxy-propane is prepared and then treated with t-butylamine. 7.6 g (yield=74%) of crude 1{4-[2-(cyclopropylmethoxy)-ethoxy]phenoxy}-3-t-butylamino-propan-2-ol are thus obtained, and this material is converted to the fumarate by mixing stoichiometric amounts of the base and of the acid in solution in isopropanol. The neutral fumarate which has precipitated is filtered off and recrystallised from ethanol (yield=80%), M.p.=158°-160° C.

reactant | 1-{4-[2-(cyclopropylmethoxy)-ethoxy]-phenoxy}-2,3-epoxy-propane | C1(CC1)COCCOC1=CC=C(OCC2CO2)C=C1 | C15H20O4
reactant | t-butylamine | C(C)(C)(C)N | C4H11N
product | 1{4-[2-(cyclopropylmethoxy)-ethoxy]phenoxy}-3-t-butylamino-propan-2-ol | 7.6 g, yield=74% | C1(CC1)COCCOC1=CC=C(OCC(CNC(C)(C)C)O)C=C1 | C19H31NO4
